US07569592B2
3-Fluorobenzonitrile (4.4 mL, 40 mmol), 4-bromopyrazole (6 g, 40 mmol) and potassium carbonate (11 g, 80 mmol) were weighed into a flask and flushed with Ar(g). Dry DMF (80 mL) was added and the reaction mixture was stirred at 140° C. for 18 h. The reaction mixture was then cooled to rt and partitioned between EtOAc (200 mL) and brine (100 mL). The organic layer was separated and the aqueous layer was washed with EtOAc (3×150 mL), the combined organic layers were washed with brine (3×50 mL), dried over Na2SO4, filtered and concentrated to afford a solid. This was recrystallized from EtOAc/hexane to give 3-(4-bromo-1H-pyrazol-1-yl)benzonitrile as a beige solid.

reactant | 3-Fluorobenzonitrile | 40 mmol, 4.4 mL | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | 4-bromopyrazole | 40 mmol, 6 g | BrC=1C=NNC1 | C3H3BrN2
reactant | potassium carbonate | 80 mmol, 11 g | C([O-])([O-])=O.[K+].[K+]
product | 3-(4-bromo-1H-pyrazol-1-yl)benzonitrile | BrC=1C=NN(C1)C=1C=C(C#N)C=CC1 | C10H6BrN3
